US04548948
(A) Preparation of 6-bromo-4-chromanone (D11)
The title compound was prepared by the method of Canalini et al.2 by the reaction of 4-bromophenol (40 g, 0.23 mole) and methyl acrylate (100 ml) in the presence of Triton B (6 ml of a 40% solution in methanol); followed by dilute acid hydrolysis of the resulting ester and cyclisation of the (4-bromophenoxy)propionic acid in concentrated sulphuric acid. The product was recrystallised from petroleum ether (60°-80° C.) to give a white crystalline solid (6.80 g, 13%). M.p. 78°-80° C.

reactant | 4-bromophenol | 0.23 mole, 40 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | methyl acrylate | 100 ml | C(C=C)(=O)OC | C4H6O2
reactant | (4-bromophenoxy)propionic acid | BrC1=CC=C(OC(C(=O)O)C)C=C1 | C9H9BrO3
solvent | methanol | CO | CH4O
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 6-bromo-4-chromanone | BrC=1C=C2C(CCOC2=CC1)=O | C9H7BrO2
